US04304938
From a mixture of 16.33 g. of aluminum chips, 100 ml. of toluene and 0.1 g. of mercuric chloride and a solution of 11 ml. of carbontetrachloride and 140 ml. of isopropyl alcohol a solution of aluminum isopropylate in toluene is prepared. A solution of 198.2 g. of 3-phenoxybenzaldehyde in 70 ml. of toluene is added, and the reaction mixture is kept at 45° to 50° C. for 3 hours.

reactant | aluminum | [Al] | Al
reactant | carbontetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
reactant | 3-phenoxybenzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | aluminum isopropylate | CC(C)[O-].CC(C)[O-].CC(C)[O-].[Al+3] | InChI=1S/3C3H7O.Al/c3*1-3(2)4;/h3*3H,1-2H3;/q3*-1;+3
